### PR TITLE
[Merged by Bors] - feat: introduce divisors on subsets of nontrivially normed fields

### PR DESCRIPTION
**Pull request by kebekus**
Introduce divisors on subsets of nontrivially normed fields. These are standard book-keeping devices used to keep track of pole/vanishing orders of meromorphic objects, such as functions, differential forms or sections in line bundles. Establish that divisors form a lattice-ordered commutative group. The construction that attaches a divisor to a meromorphic or analytic function will come in a follow-up PR.

Divisors are used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,424 @@
...
+
+/-- Divisors are `FunLike`: the coercion from divisors to functions is injective. -/
+instance : FunLike (Divisor U) 𝕜 ℤ where
+  coe := fun D ↦ D.toFun
+  coe_injective' := fun ⟨_, _, _⟩ ⟨_, _, _⟩ ↦ by simp
+
+/-- Helper lemma for the `ext` tactic: two divisors are equal if their
+associated functions agree. -/
+@[ext]
+theorem ext {D₁ D₂ : Divisor U} (h : ∀ a, D₁.toFun a = D₂.toFun a) : D₁ = D₂ := DFunLike.ext _ _ h
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:76]: Once you've set up the function coercion, `.toFun` should no longer be necessary.
I didn't test, but I guess that
```suggestion
theorem ext {D₁ D₂ : Divisor U} (h : ∀ a, D₁ a = D₂ a) : D₁ = D₂ := DFunLike.ext _ _ h
```
will work.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,424 @@
...
+    exact (h ·)
+  rw [EventuallyEq, Filter.Eventually, codiscreteWithin_iff_locallyFiniteComplementWithin, this]
+
+namespace Divisor
+
+/-- A divisor can be coerced into a function 𝕜 → ℤ -/
+instance (U : Set 𝕜) : CoeFun (Divisor U) (fun _ ↦ 𝕜 → ℤ) where
+  coe := Divisor.toFun
+
+attribute [coe] Divisor.toFun
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:66]: I think you get these for free after you set up the `FunLike` instance in the next declaration.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,424 @@
...
+@[ext]
+theorem ext {D₁ D₂ : Divisor U} (h : ∀ a, D₁.toFun a = D₂.toFun a) : D₁ = D₂ := DFunLike.ext _ _ h
+
+/-!
+## Elementary properties of the support
+-/
+
+/-- The support of a divisor is discrete. -/
+theorem discreteSupport (D : Divisor U) :
+    DiscreteTopology D.toFun.support := by
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:84]: I would prefer `support D` or `D.support` over `D.toFun.support`.
With `open Function`, I'm optimistic that `support D` will *just work*.
For `D.support`, it would be needed to provide an

```
abbrev support := Function.support D
```
somewhere.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,424 @@
...
+
+/-- Helper lemma for the `simp` tactic: the function of the zero-divisor is the
+zero function. -/
+@[simp]
+theorem zero_fun : (0 : Divisor U).toFun = 0 := rfl
+
+/-- Divisors can be added -/
+instance : Add (Divisor U) where
+  add := by
+    intro D₁ D₂
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:131]:
```suggestion
  add D₁ D₂ := by
```
Untested, but I think this works.
If it does, then you now have a `by exact` which you can remove and stay in term mode.

Idem dito for `Neg` and `SMul`.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,424 @@
...
+        simp [Function.nmem_support.1 fun a ↦ hx (D₁.supportWithinDomain a),
+          Function.nmem_support.1 fun a ↦ hx (D₂.supportWithinDomain a)]
+      supportDiscreteWithinDomain := D₁.supportDiscreteWithinDomain.add
+        D₂.supportDiscreteWithinDomain
+    }
+
+/-- Helper lemma for the `simp` tactic: the function of the sum of two divisors
+is the sum of the associated functions. -/
+@[simp]
+lemma add_fun {D₁ D₂ : Divisor U} : (D₁ + D₂).toFun = D₁.toFun + D₂.toFun := rfl
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:147]: This lemma should make use of the function coercion that you defined upstairs.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,424 @@
...
+## TODOs
+
+- Constructions: The divisor of a meromorphic function, behavior under product
+  of meromorphic functions, behavior under addition, behavior under restriction
+- Construction: The divisor of a rational polynomial
+-/
+
+open Filter Metric Real Set Topology
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] {U : Set 𝕜}
```
Comment (acmepjz) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: Maybe for the definition of `Divisor` the `𝕜` is a topological space is enough.

Also, maybe your `Divisor` should be called `DivisorOn`? And `Divisor` just means `DivisorOn univ`.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:76]: Implemented as suggested.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: Implemented. I had to modify the abbreviation to `abbrev support (D : Divisor U)  := Function.support D`

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: Implemented.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: I was able to delete the attribute without consequences. Deleting the instance led to massive errors `typeclass instance is stuck` all over the file.

@jcommelin Please advise.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:145]: I am not sure I understand. If I delete the `.toFun` then I get a different statement that no longer speaks about functions but about divisors. This renders the simp-lemma moot. I think I need to tell the compiler that I want functions ... either by using `.toFun` or by typecasting (D₁ : 𝕜 → ℤ)`. 

@jcommelin Please advise.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: @acmepjz Thank you for looking at my PR. Let me answer your two proposals separately.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: Proposal 2: Implemented as you suggested.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: Proposal 1: I am hesitant. Please let me explain why, and what I think could be done instead.

It is correct that the current definition will work with arbitrary topological spaces instead of 𝕜. However, divisors are used in complex and algebraic geometry to track the vanishing and pole orders of meromorphic functions defined on vector spaces (and, more generally, complex manifolds or algebraic varieties). This is the first PR in a long series; it does not mention the word "meromorphic" anywhere. The follow-up PRs will definitively use the normed field structure of 𝕜.

You have suggested on Zulip that one might introduce a notion of functions with "locally of finite support" as a generalization to `Finsupp`, and then specialize by saying that divisors are functions of locally finite support where the domain is  𝕜 and the target is ℤ. This might be a viable option if the community has sufficient interest in adding this. Do you think we should ask on Zulip people are interested in having functions of locally finite support?

@jcommelin Do you have any opinion here?

Comment (acmepjz) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: But it's harmless in this file only requiring 𝕜 be a topological space (by this way your definition can also be used, at least for Riemann surfaces); in later applications you can always plug a normed field into it.

I think most definitions in mathlib try to be as general as possible (although not always make sense in mathematics), for example [Algebra.IsSeparable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#Algebra.IsSeparable), it said that

> We define this for general (commutative) rings and only assume F and K are fields if this is needed for a proof.

So I think it's same for your `Divisor`.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: Sorry for being terse, but indeed, please state it using typecasting.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: @jcommelin Thanks for coming back to this. I guess I still need your help. I tried replacing the lemma by
```
lemma add_fun {D₁ D₂ : DivisorOn U} : ((D₁ + D₂) : 𝕜 → ℤ) =  (D₁ : 𝕜 → ℤ) +  (D₂ : 𝕜 → ℤ) := by rfl
```
This compiles fine, but then many of the `simp`s further down in the file fail. If I move the cursor to the `by`, I can see in the infoview that lean interprets the lemma `add_fun` as
```
𝕜 : Type u_1
inst✝ : NontriviallyNormedField 𝕜
U : Set 𝕜
D₁ D₂ : DivisorOn U
⊢ D₁.toFun + D₂.toFun = D₁.toFun + D₂.toFun
```
which is definitely not what I wanted to state and what the simplifier needs.

Please advise.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: @jcommelin Now that works. Thanks! I updated the file accordingly, here and elsewhere.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: I finally had some time to look into this. Here is a diff that sets up the basics so that `.toFun` should never have to appear in the source code or the goal view after the first 20 lines or so.
https://github.com/leanprover-community/mathlib4/compare/kebekus/divisor...jmc-divisor?expand=1

It also includes a few other minor adaptations which I should have made in separate comments...

File: Mathlib/Topology/DiscreteSubset.lean [hunk 7]
```diff
@@ -122,6 +122,92 @@ lemma Filter.codiscreteWithin.mono {U₁ U : Set X} (hU : U₁ ⊆ U) :
...
+  constructor
+  <;> intro h z hz
+  · use (U \ s)ᶜ, (h z hz)
+    simp
+  · rw [← exists_mem_subset_iff]
+    obtain ⟨t, h₁t, h₂t⟩ := h z hz
+    use t, h₁t, (disjoint_iff_inter_eq_empty.mpr h₂t).subset_compl_right
+
+/-- If `U` is closed and `s` is codiscrete within `U`, then `U \ s` is closed.-/
+theorem closed_compl_of_codiscreteWithin {s U : Set X} (hs : s ∈ codiscreteWithin U)
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:152]:
```suggestion
theorem isClosed_sdiff_of_codiscreteWithin {s U : Set X} (hs : s ∈ codiscreteWithin U)
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,420 @@
...
+      simp [Function.nmem_support.1 fun a ↦ hx (D₁.supportWithinDomain a),
+        Function.nmem_support.1 fun a ↦ hx (D₂.supportWithinDomain a)]
+    supportDiscreteWithinDomain' := D₁.supportDiscreteWithinDomain.add
+      D₂.supportDiscreteWithinDomain
+  }
+
+/-- Helper lemma for the `simp` tactic: the function of the sum of two divisors
+is the sum of the associated functions. -/
+@[simp]
+lemma add_fun {D₁ D₂ : DivisorOn U} : (↑(D₁ + D₂) : 𝕜 → ℤ) = (D₁ : 𝕜 → ℤ) + (D₂ : 𝕜 → ℤ) := rfl
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:149]:
```suggestion
lemma coe_add {D₁ D₂ : DivisorOn U} : (↑(D₁ + D₂) : 𝕜 → ℤ) = (D₁ : 𝕜 → ℤ) + (D₂ : 𝕜 → ℤ) := rfl
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,420 @@
...
+-/
+
+/-- Divisors have a zero -/
+instance : Zero (DivisorOn U) where
+  zero := ⟨fun _ ↦ 0, by simp, Eq.eventuallyEq rfl⟩
+
+/-- Helper lemma for the `simp` tactic: the function of the zero-divisor is the
+zero function. -/
+@[simp]
+theorem zero_fun : ((0 : DivisorOn U) : 𝕜 → ℤ) = 0 := rfl
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:130]:
```suggestion
theorem coe_zero : ((0 : DivisorOn U) : 𝕜 → ℤ) = 0 := rfl
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,420 @@
...
+      intro x hx
+      rw [Function.support_neg', Function.mem_support, ne_eq] at hx
+      exact D.supportWithinDomain hx
+    supportDiscreteWithinDomain' := D.supportDiscreteWithinDomain.neg
+  }
+
+/-- Helper lemma for the `simp` tactic: the function of the negative divisor
+is the negative of the associated function. -/
+@[simp]
+lemma neg_fun {D : DivisorOn U} : (↑(-D) : 𝕜 → ℤ) = -(D: 𝕜 → ℤ) := rfl
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:165]:
```suggestion
lemma coe_neg {D : DivisorOn U} : (↑(-D) : 𝕜 → ℤ) = -(D: 𝕜 → ℤ) := rfl
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,420 @@
...
+      filter_upwards [D.supportDiscreteWithinDomain]
+      intro x hx
+      simp [hx]
+  }
+
+/-- Helper lemma for the `simp` tactic: the function of a scalar product
+(natural number)·divisor is the scalar product of the natural number with the
+associated function of the divisor. -/
+@[simp]
+lemma nsmul_fun {D : DivisorOn U} {n : ℕ} : (↑(n • D) : 𝕜 → ℤ) = n • (D : 𝕜 → ℤ) := rfl
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:185]:
```suggestion
lemma coe_nsmul {D : DivisorOn U} {n : ℕ} : (↑(n • D) : 𝕜 → ℤ) = n • (D : 𝕜 → ℤ) := rfl
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,420 @@
...
+      filter_upwards [D.supportDiscreteWithinDomain]
+      intro _ hx
+      simp [hx]
+  }
+
+/-- Helper lemma for the `simp` tactic: the function of a scalar product
+(integer)·divisor is the scalar product of the integer with the associated
+function of the divisor. -/
+@[simp]
+lemma zsmul_fun {D : DivisorOn U} {n : ℤ} : (↑(n • D) : 𝕜 → ℤ) = n • (D : 𝕜 → ℤ) := rfl
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:205]:
```suggestion
lemma coe_zsmul {D : DivisorOn U} {n : ℤ} : (↑(n • D) : 𝕜 → ℤ) = n • (D : 𝕜 → ℤ) := rfl
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,420 @@
...
+    · apply h₁₂
+    · exact le_rfl
+
+/-- Helper lemma for the `simp` tactic: `restrict_orderHom` restricts divisors. -/
+@[simp]
+lemma restrict_orderHom_fun {V : Set 𝕜} (D : DivisorOn U) (h : V ⊆ U) :
+    restrict_orderHom h D = D.restrict h := by rfl
+
+/-- Restriction as a group morphism -/
+noncomputable def restrict_groupHom {V : Set 𝕜} (h : V ⊆ U) : DivisorOn U →+ DivisorOn V where
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:369]: All group homs in mathlib are called monoid homs...
```suggestion
noncomputable def restrict_monoidHom {V : Set 𝕜} (h : V ⊆ U) : DivisorOn U →+ DivisorOn V where
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean]: @jcommelin Thanks for taking the time! Honestly, I do not really understand these changes, but I merge on the general assumption that you know what you are doing. Thanks again!

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,420 @@
...
+  coe D := D.toFun
+  coe_injective' := fun ⟨_, _, _⟩ ⟨_, _, _⟩ ↦ by simp
+
+/-- This allows writing `D.support` instead of `Function.support D` -/
+abbrev support (D : DivisorOn U)  := Function.support D
+
+lemma supportWithinDomain (D : DivisorOn U) : D.support ⊆ U := D.supportWithinDomain'
+
+lemma supportDiscreteWithinDomain (D : DivisorOn U) : D =ᶠ[codiscreteWithin U] 0 :=
+  D.supportDiscreteWithinDomain'
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:76]: Here we state the fields of the structure again, with the original names, but the statement now uses the coercion, instead of `toFun`.
So, when using these lemmas, `toFun` doesn't suddenly appear in the goal state.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,420 @@
...
+
+end DivisorOn
+
+/-- The counting function for a divisor -/
+noncomputable def Divisor.counting (D : Divisor 𝕜) : ℝ → ℝ :=
+  fun r ↦ ∑ᶠ z, D.restrict (by tauto : closedBall (0 : 𝕜) |r| ⊆ ⊤) z
+
+/-- The logarithmic counting function for a divisor -/
+noncomputable def Divisor.logCounting (D : Divisor 𝕜) : ℝ → ℝ :=
+  fun r ↦ ∑ᶠ z, D.restrict (by tauto : closedBall (0 : 𝕜) |r| ⊆ ⊤) z * (log r - log ‖z‖)
```
Comment (acmepjz) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:420]: I think only these 2 result uses normed field condition. The remaining results work on arbitrary topological spaces. 
So I think they should indeed be generalized.

Also, do these 2 results have generalizations on Riemann surfaces?

**Review by acmepjz — COMMENTED** [review]
Maybe you can split the changes of `Mathlib/Topology/DiscreteSubset.lean` to another PR?

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,420 @@
...
+structure DivisorOn (U : Set 𝕜) where
+  /-- A function `𝕜 → ℤ` -/
+  toFun : 𝕜 → ℤ
+  /-- A proof that the support of `toFun` is contained in `U` -/
+  supportWithinDomain' : toFun.support ⊆ U
+  /-- A proof the the support is discrete within `U` -/
+  supportDiscreteWithinDomain' : toFun =ᶠ[codiscreteWithin U] 0
+
+/-- A divisor is a divisor on `⊤ : Set 𝕜`. -/
+def Divisor (𝕜 : Type*) [NontriviallyNormedField 𝕜] := DivisorOn (⊤ : Set 𝕜)
```
Comment (acmepjz) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:51]: Can you test that `Add` instances, etc., work for `Divisor`? If not, then this need to be `abbrev Divisor ...`.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,420 @@
...
+-/
+
+/-- A divisor on `U` is a triple specified below. -/
+structure DivisorOn (U : Set 𝕜) where
+  /-- A function `𝕜 → ℤ` -/
+  toFun : 𝕜 → ℤ
+  /-- A proof that the support of `toFun` is contained in `U` -/
+  supportWithinDomain' : toFun.support ⊆ U
+  /-- A proof the the support is discrete within `U` -/
+  supportDiscreteWithinDomain' : toFun =ᶠ[codiscreteWithin U] 0
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:48]: Roger, for this and for the next comments. Thanks!

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 16 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:51]: I believe this works, even with the latest changes by Commelin.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: @acmepjz Please apologize for the long silence. I was out of the office for a few days. Before I say anything else: thanks for considering my PR so carefully!

 If the maintainers feel that going from 𝕜 to a topological space is a good idea, I won't stand in their way. I am however still hesitant because I am concerned that the general definition might be misleading. As you point out, the current definition will work for Riemann surfaces. However, it will not work in higher dimensions, where a divisor is an entirely different object. It will not work on singular spaces, where one needs the proper distinction between Weil divisors and Cartier divisors instead of the simplistic definition that works for subsets of 𝕜.

To make matters worse, I am under the impression that the proper definition of "divisor" is not a matter of the topological space alone. Take the complex plane. As a complex analytic space, the complex plane is one-dimensional and the current definition is the correct one. Seen as a real analytic space, the complex plane is two-dimensional and the current definition will not work. IMHO this implies that the choice of the field must be part of the data when one defines the notion of divisor.

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 15 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:324]: @acmepjz Thanks again. Please let me refer you to my comments further up on my concerns about using topological spaces.

Value distribution theory is used today in the context of work on Lang's conjecture, to study entire curves in compact Kähler manifolds as an analog of rational points on an algebraic variety. There is a subject "hyperbolic Nevanlinna theory" that generalizes entire curves, studying holomorphic functions whose domain is a cover of the complex plane. There is a substantial body of work generalizing all this to the higher-dimensional setting, and to link the theory with the dynamics of foliations on complex manifolds.

All these matters are completely out of scope for the moment. As far as I know, there is not even a well-developed theory of Kähler manifolds that would be required to even state the relevant results. For now, I am trying to work on the very basics, covering the most elementary case only for later work to build on.

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:324]: @acmepjz Should we have more general definitions? Ideally, I think we should introduce complex spaces following Grauert and define Weil- and Cartier-divisors on those spaces. Once done, one can then show that in the simplest examples, these definitions agree with what we have here.

Comment (acmepjz) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:324]: > I think we should introduce complex spaces following Grauert

Maybe that's far away from now...

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:324]: It is. The material required fills several books…

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:29]: Roger. Thank you for your understanding!

File: Mathlib/Topology/DiscreteSubset.lean [hunk 18]
```diff
@@ -131,6 +131,80 @@ theorem discreteTopology_of_codiscreteWithin {U s : Set X} (h : s ∈ Filter.cod
...
+lemma codiscreteWithin_iff_locallyEmptyComplementWithin {s U : Set X} :
+    (s ∈ codiscreteWithin U) ↔ (∀ z ∈ U, ∃ t ∈ 𝓝[≠] z, t ∩ (U \ s) = ∅) := by
+  simp only [mem_codiscreteWithin, disjoint_principal_right]
+  constructor
+  <;> intro h z hz
+  · use (U \ s)ᶜ, (h z hz)
+    simp
+  · rw [← exists_mem_subset_iff]
+    obtain ⟨t, h₁t, h₂t⟩ := h z hz
+    use t, h₁t, (disjoint_iff_inter_eq_empty.mpr h₂t).subset_compl_right
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:146]:
```suggestion
    s ∈ codiscreteWithin U ↔ ∀ z ∈ U, ∃ t ∈ 𝓝[≠] z, t ∩ (U \ s) = ∅ := by
  simp only [mem_codiscreteWithin, disjoint_principal_right]
  refine ⟨fun h z hz ↦ ⟨(U \ s)ᶜ, h z hz, by simp⟩, fun h z hz ↦ ?_⟩
  rw [← exists_mem_subset_iff]
  obtain ⟨t, h₁t, h₂t⟩ := h z hz
  use t, h₁t, (disjoint_iff_inter_eq_empty.mpr h₂t).subset_compl_right
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 19]
```diff
@@ -131,6 +131,80 @@ theorem discreteTopology_of_codiscreteWithin {U s : Set X} (h : s ∈ Filter.cod
...
+      simp only [mem_diff, not_and, not_not] at W
+      by_cases h₃a : a ∈ U
+      · tauto
+      · by_contra
+        tauto
+  · rw [eventually_iff_exists_mem]
+    use Uᶜ, hU.compl_mem_nhds h₁x
+    intro y hy
+    simp only [mem_compl_iff, mem_diff, not_and, not_not]
+    tauto
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:170]: Please add `import Mathlib.Tactic.TautoSet` to the top of the file.
```suggestion
    · tauto_set
    · specialize ha h₂a
      tauto_set
  · rw [eventually_iff_exists_mem]
    use Uᶜ, hU.compl_mem_nhds h₁x
    intro y hy
    tauto_set
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 20]
```diff
@@ -131,6 +131,80 @@ theorem discreteTopology_of_codiscreteWithin {U s : Set X} (h : s ∈ Filter.cod
...
+
+/-- In a T1Space, punctured neighborhoods are stable under removing finite sets of points. -/
+theorem nhdNE_of_nhdNE_diff_finite {X : Type*} [TopologicalSpace X] [T1Space X] {x : X}
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:173]:
```suggestion
theorem nhdNE_of_nhdNE_sdiff_finite {X : Type*} [TopologicalSpace X] [T1Space X] {x : X}
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 21]
```diff
@@ -131,6 +131,80 @@ theorem discreteTopology_of_codiscreteWithin {U s : Set X} (h : s ∈ Filter.cod
...
+    obtain ⟨t, h₁t, h₂t⟩ := h z h₁z
+    use insert z t, insert_mem_nhds_iff.mpr h₁t
+    by_cases hz : z ∈ U \ s
+    · rw [inter_comm, inter_insert_of_mem hz, inter_comm, h₂t]
+      simp
+    · rw [inter_comm, inter_insert_of_not_mem hz, inter_comm, h₂t]
+      simp
+  · intro h z h₁z
+    obtain ⟨t, h₁t, h₂t⟩ := h z h₁z
+    use t \ (t ∩ (U \ s)), nhdNE_of_nhdNE_diff_finite (mem_nhdsWithin_of_mem_nhds h₁t) h₂t
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:205]:
```suggestion
    use t \ (t ∩ (U \ s)), nhdNE_of_nhdNE_sdiff_finite (mem_nhdsWithin_of_mem_nhds h₁t) h₂t
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 22]
```diff
@@ -131,6 +131,80 @@ theorem discreteTopology_of_codiscreteWithin {U s : Set X} (h : s ∈ Filter.cod
...
+  obtain ⟨t, ht, h₁ts, h₂ts⟩ := hU
+  use t \ (s \ {x})
+  constructor
+  · rw [← isClosed_compl_iff, compl_diff]
+    exact hs.diff.isClosed.union (isClosed_compl_iff.2 ht)
+  · simp_all only [mem_diff, mem_singleton_iff, not_true_eq_false, and_false, not_false_eq_true,
+      and_self, true_and]
+    intro z hz
+    simp_all only [mem_inter_iff, mem_diff, mem_singleton_iff, not_and, not_not, mem_compl_iff]
+    tauto
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:186]:
```suggestion
  · tauto_set
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 23]
```diff
@@ -131,6 +131,80 @@ theorem discreteTopology_of_codiscreteWithin {U s : Set X} (h : s ∈ Filter.cod
...
+
+/-- In a T1Space, a set `s` is codiscreteWithin `U` iff it has locally finite complement within `U`.
+More precisely: `s` is codiscreteWithin `U` iff every point `z ∈ U` has a punctured neighborhood
+intersect `U \ s` in only finitely many points. -/
+theorem codiscreteWithin_iff_locallyFiniteComplementWithin [T1Space X] {s U : Set X} :
+    (s ∈ codiscreteWithin U) ↔ ∀ z ∈ U, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ (U \ s)) := by
```
Comment (jcommelin) [inline Mathlib/Topology/DiscreteSubset.lean:192]:
```suggestion
    s ∈ codiscreteWithin U ↔ ∀ z ∈ U, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ (U \ s)) := by
```

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,324 @@
...
+
+end DivisorOn
+
+/-- The counting function for a divisor -/
+noncomputable def Divisor.counting (D : Divisor 𝕜) : ℝ → ℝ :=
+  fun r ↦ ∑ᶠ z, D.restrict (by tauto : closedBall (0 : 𝕜) |r| ⊆ ⊤) z
+
+/-- The logarithmic counting function for a divisor -/
+noncomputable def Divisor.logCounting (D : Divisor 𝕜) : ℝ → ℝ :=
+  fun r ↦ ∑ᶠ z, D.restrict (by tauto : closedBall (0 : 𝕜) |r| ⊆ ⊤) z * (log r - log ‖z‖)
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:324]: Since there currently no theory about these definitions, I think it is better to postpone them to a later PR.

One trivial thing that I think will be good to add is `DivisorOn.single`, which is takes an `n : Int` and an `x` in `U`, and builds the divisor `n[x]`. Because once you have that, it will be easy to build arbitrary finitely-supported divisors using linear combinations.
But again, this can be done in a follow-up PR.

**Review by jcommelin — COMMENTED** [review]
I think this is converging. Please go ahead and merge this using `bors r+` after processing my final set of comments. Thanks for your work!

bors d+

File: Mathlib/Analysis/Meromorphic/Divisor/Basic.lean (hunk 24 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Divisor/Basic.lean:324]: Roger. I will remove this material for now and re-submit it once I get closer to formulating Nevanlinna's first main theorem. Ditto for the `DivisorOn.single` that you suggest.

**Comment by kebekus** [comment]
@jcommelin Thanks!

**Comment by kebekus** [comment]
@jcommelin I tried to merge the PR, but I am stuck with the continuous integration. The linter complains:

```
Warning: ././././Mathlib/Topology/DiscreteSubset.lean:6:1: warning: unused import (use `lake exe shake --fix` to fix this, or `lake exe shake --update` to ignore)
././././Mathlib/Topology/DiscreteSubset.lean:
  remove #[Mathlib.Tactic.TautoSet]
```

But if I remove the import, the file fails to compile. I have tried to see what other files in mathlib are doing, but it seems we are the first to use this tactic. Please advise.

**Comment by kebekus** [comment]
@jcommelin Ok, I tried `lake exe shake --update` but that starts modifying a file in ways I do not really understand. Is it safe to push the following into mathlib?

```
kebekus@stefan-macbook:~/Mathe/mathlib4$ git diff
diff --git a/scripts/noshake.json b/scripts/noshake.json
index a67d68d24f..95ebed4eda 100644
--- a/scripts/noshake.json
+++ b/scripts/noshake.json
@@ -203,6 +203,7 @@
   "Mathlib.Topology.Order.LeftRightNhds":
   ["Mathlib.Algebra.Ring.Pointwise.Set"],
   "Mathlib.Topology.Germ": ["Mathlib.Analysis.Normed.Module.Basic"],
+  "Mathlib.Topology.DiscreteSubset": ["Mathlib.Tactic.TautoSet"],
   "Mathlib.Topology.Defs.Basic": ["Mathlib.Tactic.FunProp"],
   "Mathlib.Topology.Category.UniformSpace":
   ["Mathlib.CategoryTheory.Monad.Limits"],
@@ -215,7 +216,8 @@
   "Mathlib.Tactic.Widget.CommDiag": ["Mathlib.CategoryTheory.Category.Basic"],
   "Mathlib.Tactic.Use": ["Batteries.Logic"],
   "Mathlib.Tactic.TermCongr": ["Mathlib.Logic.Basic"],
-  "Mathlib.Tactic.TautoSet": ["Mathlib.Data.Set.Disjoint", "Mathlib.Data.Set.SymmDiff"],
+  "Mathlib.Tactic.TautoSet":
+  ["Mathlib.Data.Set.Disjoint", "Mathlib.Data.Set.SymmDiff"],
   "Mathlib.Tactic.Tauto": ["Mathlib.Logic.Basic"],
   "Mathlib.Tactic.TFAE": ["Mathlib.Data.List.TFAE", "Mathlib.Tactic.Have"],
   "Mathlib.Tactic.Subsingleton": ["Mathlib.Logic.Basic", "Std.Logic"],
@@ -385,7 +387,8 @@
   ["Mathlib.LinearAlgebra.AffineSpace.Defs"],
   "Mathlib.LinearAlgebra.AffineSpace.AffineMap":
   ["Mathlib.LinearAlgebra.AffineSpace.Defs"],
-  "Mathlib.Lean.Meta.RefinedDiscrTree.Pi": ["Mathlib.Algebra.Group.Pi.Notation"],
+  "Mathlib.Lean.Meta.RefinedDiscrTree.Pi":
+  ["Mathlib.Algebra.Group.Pi.Notation"],
   "Mathlib.Lean.Meta": ["Batteries.Logic"],
   "Mathlib.Lean.Expr.ExtraRecognizers": ["Mathlib.Data.Set.Operations"],
   "Mathlib.Lean.Expr.Basic": ["Batteries.Logic"],
@@ -505,10 +508,10 @@
   ["Mathlib.CategoryTheory.ConcreteCategory.ReflectsIso"],
   "Mathlib.Algebra.Category.MonCat.Basic":
   ["Mathlib.Algebra.Ring.Action.Group"],
+  "Mathlib.Algebra.BigOperators.Pi": ["Mathlib.Data.Finset.Lattice.Fold"],
   "Mathlib.Algebra.BigOperators.Group.List.Lemmas":
   ["Mathlib.Data.List.ProdSigma"],
   "Mathlib.Algebra.BigOperators.Group.List": ["Mathlib.Data.List.ProdSigma"],
-  "Mathlib.Algebra.BigOperators.Pi": ["Mathlib.Data.Finset.Lattice.Fold"],
   "Mathlib.Algebra.Algebra.Subalgebra.Order":
   ["Mathlib.Algebra.Module.Submodule.Order"],
   "Batteries.Tactic.OpenPrivate": ["Lean.Parser.Module"],
```

**Comment by kbuzzard** [comment]
That diff looks OK to me.

**Comment by kebekus** [comment]
@acmepjz @jcommelin @kbuzzard Thanks for all your help!
